US05730902
Preparation of (S)-4-(trans-4-(trans-4-n-pentyl-4-silacyclohexyl)cyclohexyl)-1-(2- methylbutyl) benzene
The general procedure of Example 18 was repeated using (S)-1-bromo-2-methylbutane and (4-(trans-4-(4-n-pentyl-4-phenyl-4-silacyclohexyl)cyclohexyl)phenyl) trifluoromethanesulfonate, thereby obtaining the intended compound.

reactant | (S)-1-bromo-2-methylbutane | BrC[C@H](CC)C | C5H11Br
reactant | (4-(trans-4-(4-n-pentyl-4-phenyl-4-silacyclohexyl)cyclohexyl)phenyl) trifluoromethanesulfonate | FC(S(=O)(=O)OC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)C1CC[Si](CC1)(C1=CC=CC=C1)CCCCC)(F)F | C29H39F3O3SSi
product | (S)-4-(trans-4-(trans-4-n-pentyl-4-silacyclohexyl)cyclohexyl)-1-(2- methylbutyl) benzene | C(CCCC)[Si@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C[C@H](CC)C | C27H46Si
